US04868184
Preparation of 1-[3-(diphenylmethoxy)propyl]-4-[(2-chlorophenyl)-(4-fluorophenyl)methyl]piperazine
A mixture containing 7.4 g of benzhydryl bromide and 21.8 g of 4-[(2-chlorophenyl)-(4-fluorophenyl)methyl]-1-(3-hydroxypropyl)piperazine is heated at 160° to 170° C. under nitrogen gas for 30 minutes, then cooled to 90° to 100° C. and poured into water. The aqueous phase is extracted with benzene, washed with water, thebenzene solution is dried over anhydrous potassium carbonate and then evaporated under reduced pressure. The residue is purified by chromatography on a Kieselgel column by using a 4:1 mixture of benzene andchloroform as eluant. The thus-obtained product is recrystallized from n-hexane to give the aimed product, m.p.: 98°-99° C.

reactant | benzhydryl bromide | 7.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
reactant | 4-[(2-chlorophenyl)-(4-fluorophenyl)methyl]-1-(3-hydroxypropyl)piperazine | 21.8 g | ClC1=C(C=CC=C1)C(N1CCN(CC1)CCCO)C1=CC=C(C=C1)F | C20H24ClFN2O
solvent | water | O | H2O
product | 1-[3-(diphenylmethoxy)propyl]-4-[(2-chlorophenyl)-(4-fluorophenyl)methyl]piperazine | C1(=CC=CC=C1)C(OCCCN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=C(C=CC=C1)Cl)C1=CC=CC=C1 | C33H34ClFN2O
